US09403808B2
(S)-2-[(5-Cyclopropyl-6-cyclopropylmethoxy-pyrazine-2-carbonyl)-amino]-3,3-dimethyl-butyric acid methyl ester
The title compound was synthesized in analogy to Example 6, using 5-cyclopropyl-6-cyclopropylmethoxy-pyrazine-2-carboxylic acid (Example 10 g) and 3-methyl-L-valine methyl ester hydrochloride (1:1) (CAN 63038-27-7) as starting materials, and isolated (98 mg, 91%) as light yellow oil; LC-MS (UV peak area, ESI) 100%, 362.2081 (M+H).

reactant | 5-cyclopropyl-6-cyclopropylmethoxy-pyrazine-2-carboxylic acid | 10 g | C1(CC1)C=1N=CC(=NC1OCC1CC1)C(=O)O | C12H14N2O3
reactant | 3-methyl-L-valine methyl ester hydrochloride | Cl.COC([C@@H](N)C(C)(C)C)=O
product | (S)-2-[(5-Cyclopropyl-6-cyclopropylmethoxy-pyrazine-2-carbonyl)-amino]-3,3-dimethyl-butyric acid methyl ester | COC([C@H](C(C)(C)C)NC(=O)C1=NC(=C(N=C1)C1CC1)OCC1CC1)=O | C19H27N3O4
